US06291616B1
10-Phenyl-3,6,9-trioxadecanoic acid (1.71 g, 6.71 mmol) was dissolved in CH2Cl2 (13.4 mL) and the solution was cooled to 0° C. 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI) (1.41 g, 7.38 mmol) and N,N-dimethylaminopyridine (DMAP) (41.0 mg, 0.34 mmol) were added, and the suspension was stirred for 10 minutes at 0° C. 2-(Trimethylsilyl)ethanol (872.4 mg, 7.38 mmol) was added dropwise via syringe, and the solution was stirred for 20 minutes while warming to room temperature. The reaction was quenched with H2O and extracted with Et2O (3×50 mL). The combined Et2O extracts were washed sequentially with 10% HCl (1×50 mL), 5% NaHCO3 (1×50 mL), and saturated NaCl (1×50 mnL), and dried over Na2SO4. Concentration followed by flash chromatography (silica, 4:1 hexanes/EtOAc) afforded 10-phenyl-3,6,9-trioxadecanoic acid 2-(trimethylsilyl)ethyl ester (2.32 g, 97% yield). Rf=0.26 (4:1 hexanes/EtOAc); IR (neat): 3500-3400, 3000-2700, 1751, 1733, 1615, 1455, 1250, 1148, 1124 cm−1; 1H NMR (300 MHz, CDCl3): δ 7.32-7.23 (m, 5H), 4.54 (s, 2H), 4.24-4.18 (m, 2H), 4.10 (s, 2H), 3.72-3.59 (m, 8H), 1.01-0.95 (m, 2H), 0.01 (s, 9H); 13C NMR (75 MHz, CDCl3): δ 170.5, 138.2, 128.3, 127.6, 127.5, 73.2, 70.8, 70.6, 69.4, 68.8, 63.0, 17.3, −1.6; LRMS (LSIMS, 3-NBA): m/z 377.2 [M+Na+, calc'd for C18H30O5NaSi 377.5].

reactant | 10-Phenyl-3,6,9-trioxadecanoic acid | 6.71 mmol, 1.71 g | C1(=CC=CC=C1)COCCOCCOCC(=O)O | C13H18O5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 7.38 mmol, 1.41 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-(Trimethylsilyl)ethanol | 7.38 mmol, 872.4 mg | C[Si](CCO)(C)C | C5H14OSi
solvent | CH2Cl2 | 13.4 mL | C(Cl)Cl | CH2Cl2
product | 10-phenyl-3,6,9-trioxadecanoic acid 2-(trimethylsilyl)ethyl ester | 2.32 g, 97% yield | C[Si](CCOC(COCCOCCOCC1=CC=CC=C1)=O)(C)C | C18H30O5Si
